US07060827B2
In like manner to the preparation of N2,N4-bis(3-tert-butoxycarbonylmethyleneaminophenyl)-5-fluoro-2,4-pyrimidinediamine, N2,N4-bis(3-aminophenyl)-5-fluoro-2,4-pyrimidinediamine and tert-butyl bromoacetate were reacted together to give N2-(3-aminophenyl)-N4-(3-tert-butoxycarbonylmethyleneaminophenyl)-5-fluoro-2,4-pyrimidinediamine. LCMS: ret. time: 18.82 min.; purity: 85.8%; MS (m/e): 369.11 (MH+).

reactant | N2,N4-bis(3-aminophenyl)-5-fluoro-2,4-pyrimidinediamine | NC=1C=C(C=CC1)NC1=NC=C(C(=N1)NC1=CC(=CC=C1)N)F | C16H15FN6
reactant | tert-butyl bromoacetate | BrCC(=O)OC(C)(C)C | C6H11BrO2
product | N2-(3-aminophenyl)-N4-(3-tert-butoxycarbonylmethyleneaminophenyl)-5-fluoro-2,4-pyrimidinediamine | NC=1C=C(C=CC1)NC1=NC=C(C(=N1)NC1=CC(=CC=C1)N=CC(=O)OC(C)(C)C)F | C22H23FN6O2
